US05268379
Preparation of 4-methoxy-4-[3-((1,2-dihydro-1-methyl-2-oxoquinolin-6-yl)methoxy)-trans-prop-1-enyl]tetrahydropyran
The desired compound was prepared according to the method of Example 1, step 4, except substituting 4-methoxy-4-(3-hydroxy-trans-prop-1-enyl)tetrahydropyran, prepared as in Example 3, for 4-methoxy-4-(3-hydroxyprop-1-ynyl)tetrahydropyran, and substituting 1,2-dihydro-1-methyl-2-oxo-6-(bromomethyl)quinoline for 2-(bromomethyl)naphthalene. 1H NMR (300 MHz, CDCl3); 7.67 (1H, d, J=9 Hz), 7.52-7.58 (2H, m), 7.35 (1H, d, J=9 Hz), 6.72 (1H, d, J=9 Hz), 5.75 (1H, dt, J=15.5,8 Hz), 5.63 (1H, br d, J=16 Hz), 4.60 (2H, s), 4.10 (2H, dd, J=8,1 Hz), 3.67-3.8 (4H, m), 3.15 (3H, s), 1.72-1.77 (4H, m); MS (M+H)+ =344. Analysis calc'd for C20H25NO4 : C, 69.95; H, 7.34; N, 4.08; Found: C, 69.68; H, 7.16; N, 3.99

reactant | 4-methoxy-4-(3-hydroxyprop-1-ynyl)tetrahydropyran | COC1(CCOCC1)C#CCO | C9H14O3
reactant | 1,2-dihydro-1-methyl-2-oxo-6-(bromomethyl)quinoline | CN1C(C=CC2=CC(=CC=C12)CBr)=O | C11H10BrNO
reactant | 2-(bromomethyl)naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | 4-methoxy-4-[3-((1,2-dihydro-1-methyl-2-oxoquinolin-6-yl)methoxy)-trans-prop-1-enyl]tetrahydropyran | COC1(CCOCC1)\C=C\COCC=1C=C2C=CC(N(C2=CC1)C)=O | C20H25NO4
